US09388189B2
(S)—N-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide
(S)—N-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide (82.5 mg, 0.12 mmol) was treated with trifluoroacetic acid (1.4 ml, 18.17 mmol) and a solution of ammonia (7N in methanol, 1.4 ml, 9.8 mmol) according to the method described in Example 27 to give 22 mg (32% yield) of the title compound as a white solid. Purity 95%.

reactant | (S)—N-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide | 0.12 mmol, 82.5 mg | COC1=NC=C(C=C1NS(=O)(=O)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H41N9O5SSi
reactant | trifluoroacetic acid | 18.17 mmol, 1.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 9.8 mmol, 7N, 1.4 ml | N | H3N
product | (S)—N-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide | 22 mg, 32% yield | COC1=NC=C(C=C1NS(=O)(=O)C)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C28H27N9O4S
